US05565463
Magnesium turnings (28 g) are added to a solution of 3-(4-benzyloxyphenyl)-acrylonitrile (17.0 g, 72.3 mmol) in dry MeOH (800 mL). As soon as moderate H2 evolution is observed, the flask is immersed in an efficient ice/water cooling bath until the initially vigorous reaction subsides after about 45 minutes. Additional Mg (10 g) is added, and the reaction mixture is stirred for 4 hours with intermittent cooling during which time most of the Mg metal is consumed. The mixture is evaporated to a thick paste, which is then cooled to 0° C. and treated slowly with enough cold 6N HCl to dissolve the magnesium salts. The turbid solution is extracted with CHCl3, and the organic layer is washed with 0.1N NaOH and H2O, dried over Na2SO4, and evaporated to give white waxy solid residue that is recrystallized from EtOH/H2O (2:1) to give 3-(4-benzyloxyphenyl)-propionitrile.

reactant | Magnesium | 28 g | [Mg] | Mg
reactant | 3-(4-benzyloxyphenyl)-acrylonitrile | 72.3 mmol, 17.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC#N | C16H13NO
solvent | MeOH | 800 mL | CO | CH4O
product | 3-(4-benzyloxyphenyl)-propionitrile | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC#N | C16H15NO
